US07572808B2
Preparation of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinic acid
To a stirring solution of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinaldehyde (150 mg, 0.294 mmol) in CH3CN (10 mL) was added silver nitrate (235 mg, 1.38 mmol), followed by 1.0 M aqueous NaOH solution (2.2 mL, 2.2 mmol). The resulting black mixture was stirred at room temperature for 1 h, then the reaction mixture was adjusted to pH 5 by dropwise addition of 1 N aqueous HCl solution. The resulting mixture was extracted with EtOAc (30 mL×3). The combined EtOAc extracts were washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated under reduced pressure to obtain 150 mg of the title compound as a brownish solid. A portion (10 mg) of the product was purified using preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 50% to 80% B over 8 min (A=0.1% trifluoroacetic acid, 90% water, 10% methanol and B=0.1% trifluoroacetic acid, 90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The residue was partitioned between EtOAc and water, then adjusted to pH 6-7 with saturated aqueous NaHCO3 The EtOAc layer was washed with water, then saturated aqueous NaCl, dried over Na2SO4 and concentrated under reduced pressure. The residue was dissolved in acetonitrile, frozen and lyophilized to afford 8.5 mg of the title compound as a yellow powder. HPLC/MS: retention time=2.58 min, [M+H]+=526.1.

reactant | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinaldehyde | 0.294 mmol, 150 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C=O)=O)C2=CC=NC=C2 | C25H15ClF3N5O2
reactant | NaOH | 2.2 mmol, 1.0 M, 2.2 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | CH3CN | 10 mL | CC#N | C2H3N
catalyst | silver nitrate | 1.38 mmol, 235 mg | [N+](=O)([O-])[O-].[Ag+]
product | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinic acid | 150 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C(=O)O)=O)C2=CC=NC=C2 | C25H15ClF3N5O3
